US06544982B1
Step 1: [Naphthalen-1-ylmethyl-(3-phenylisoxazol-5-yl)-amino]-acetic acid ethyl ester
Charged flask with a 60% sodium hydride in oil dispersion (64.0 mg, 1.6 mmol) and suspended in DMF (1 ml). A DMF (1 ml) solution of naphthalen-1-ylmethyl-(3-phenylisoxazol-5-yl)-amine (300 mg, 1.0 mmol ) was added and the mixture stirred under argon at rt for 30 min resulting in a light yellow solution. After adding ethyl bromoacetate (333 μl, 3.0 mmol), the reaction was stirred at rt for 1 hr, poured into 10% sodium bicarbonate (aq) and extracted with ethyl acetate (3×). The extracts were combined, washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuo to give a crude oil (370 mg). Flash chromatography on silica gel (15% ethyl acetate in hexane) gave the title compound as a colorless oil (306 mg, 73.9%).

reactant | sodium hydride | [H-].[Na+]
reactant | naphthalen-1-ylmethyl-(3-phenylisoxazol-5-yl)-amine | 1.0 mmol, 300 mg | C1(=CC=CC2=CC=CC=C12)CNC1=CC(=NO1)C1=CC=CC=C1 | C20H16N2O
reactant | ethyl bromoacetate | 3.0 mmol, 333 μl | BrCC(=O)OCC | C4H7BrO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | [Naphthalen-1-ylmethyl-(3-phenylisoxazol-5-yl)-amino]-acetic acid ethyl ester | 306 mg, 73.9% | C(C)OC(CN(C1=CC(=NO1)C1=CC=CC=C1)CC1=CC=CC2=CC=CC=C12)=O | C24H22N2O3
